US05078838
4-Fluorobenzaldehyde dimethyl acetal
Electrolyte: 250 g (1.488 mol) of 4-fluorobenzyl acetate, 12.5 g of sodium benzenesulfonate, 12.5 g of sodium methylate and 2225 g of methanol

reactant | 4-fluorobenzyl acetate | 1.488 mol, 250 g | C(C)(=O)OCC1=CC=C(C=C1)F | C9H9FO2
reactant | sodium benzenesulfonate | 12.5 g | C1(=CC=CC=C1)S(=O)(=O)[O-].[Na+]
reactant | sodium methylate | 12.5 g | C[O-].[Na+]
solvent | methanol | 2225 g | CO | CH4O
product | 4-Fluorobenzaldehyde dimethyl acetal | COC(C1=CC=C(C=C1)F)OC | C9H11FO2
